US09422287B2
8,8-Dimethyl-3,6-diphenyl-8H-indolo[3,2,1-de]acridine
19.8 g (45 mmol) of 3,6-dibromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine, 11.4 g (94 mmol) of phenylboronic acid and 164 ml of saturated NaHCO3 solution are suspended in 1500 ml of toluene and 150 ml of ethanol. 1.9 g (1.6 mmol) of Pd(PPh)3 are added to this suspension, and the reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, filtered through silica gel, washed three times with 200 ml of water and subsequently evaporated to dryness.

reactant | 3,6-dibromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine | 45 mmol, 19.8 g | BrC1=CC2=C(C=C1)N1C3=C2C=C(C=C3C(C=3C=CC=CC13)(C)C)Br | C21H15Br2N
reactant | phenylboronic acid | 94 mmol, 11.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NaHCO3 | 164 ml | C(=O)(O)[O-].[Na+]
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8,8-Dimethyl-3,6-diphenyl-8H-indolo[3,2,1-de]acridine | CC1(C=2C=CC=CC2N2C3=C(C=C(C=C13)C1=CC=CC=C1)C=1C=C(C=CC12)C1=CC=CC=C1)C | C33H25N
